2148-01-17 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2148-1-16**] 04:00 PM
   pt arrived intubated from OSH sp cardiac arrest
 ARTERIAL LINE - START [**2148-1-16**] 06:00 PM
 MULTI LUMEN - START [**2148-1-16**] 07:41 PM
 TRAUMA LINE - START [**2148-1-16**] 08:00 PM
   I/O line in left knee- placed trauma OSH- to be [**Name6 (MD) 4338**] by MD whern able
   - reach cooling temp at 10pm last night
   - gave cisatracurium with improved ventilation
   - radiology: head CT without acute ICP, basal ganglia calcifications;
   CXR with pulmonary edema
   - gave lasix 40mg IV and had about 600cc UOP
   - gave 1x dose insulin (10U Humalog) for BG 422, then started on
   insulin gtt for persistent hyperglycemia and trace ketones in urine-
   - UOP drop after at 5am, but CVP 9- 10 and lung compliance improved
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   lip swelling;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.04 mg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2148-1-16**] 07:40 PM
   Fentanyl - [**2148-1-16**] 07:40 PM
   Cisatracurium - [**2148-1-16**] 09:13 PM
   Furosemide (Lasix) - [**2148-1-16**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Home Medications:
   oral hypoglycemic
   lipitor 10mg daily
   FAMILY HISTORY:
   Father had MI in 60s.  + type 2 DM
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-17**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 33.2
C (91.8
   HR: 57 (57 - 120) bpm
   BP: 98/58(72) {97/52(68) - 133/64(82)} mmHg
   RR: 24 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                    621 mL
                                                                    397 mL
   PO:
   TF:
   IVF:
                                                                    621 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                    585 mL
   Urine:
                                                                    105 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    216 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/28/99.[**Numeric Identifier 508**]/21/-1
   Ve: 12.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GENERAL: intubated, sedated, paralyzed.
   HEENT: NCAT. Sclera anicteric. pupils 2mm, both sluggish, but reactive
   to light. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple with JVP difficult to assess given habitus.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   tachycardic, RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or
   S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Transmitted
   vent sounds otherwise minimal crackles at bases laterally,.
   ABDOMEN: Soft, NTND. No abdominial bruits.
   EXTREMITIES: No c/c/ +1 lower ext edema. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   126 K/uL
   12.6 g/dL
   391 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.1 mEq/L
   26 mg/dL
   100 mEq/L
   132 mEq/L
   38.8 %
   9.7 K/uL
        [image002.jpg]
                            [**2148-1-16**]  05:48 PM
                            [**2148-1-16**]  06:00 PM
                            [**2148-1-16**]  06:50 PM
                            [**2148-1-16**]  09:50 PM
                            [**2148-1-17**]  12:08 AM
                            [**2148-1-17**]  12:27 AM
                            [**2148-1-17**]  02:07 AM
                            [**2148-1-17**]  04:23 AM
                            [**2148-1-17**]  04:41 AM
   WBC
   19.1
   9.7
   Hct
   42.2
   38.8
   Plt
   238
   126
   Cr
   1.0
   1.1
   1.0
   TropT
   0.08
   0.31
   0.43
   TCO2
   25
   21
   22
   21
   21
   21
   Glucose
   373
   458
   422
   452
   391
   Other labs: PT / PTT / INR:14.0/24.8/1.2, CK / CKMB /
   Troponin-T:695/112/0.43, ALT / AST:25/34, Alk Phos / T Bili:87/0.6,
   Amylase / Lipase:/24, Differential-Neuts:87.1 %, Lymph:6.5 %, Mono:5.4
   %, Eos:0.7 %, Lactic Acid:2.7 mmol/L, Albumin:3.7 g/dL, LDH:275 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   67 yo M with DM, HTN presents following VF-arrest s/p shock x1 with
   conversion to sinus tach and initiated on arctic sun cooling protocol.
   .
   # RHYTHM: pt found in VF arrest, down time was brief for a few minutes.
   He was shocked x1 with conversion to sinus tach.   He was started on
   amiodarone and initiated on artic sun cooling.  He reached cooling temp
   at 10pm last night.  No clear h/o ischemia, heart failure, LVH,
   structural heart disease or prior arrhythmia that might have caused his
   VF arrest.  However, given cardiac risk factors pt likely with
   underlying cardiac disease.
   -- plan to continue cooling protocol for 24hrs
   -- Cardiac Arrest Team consult and recs
   -- EEG with neuro input
   -- cont sedation with fentanyl/ mid and cont paralysis with cis
   -- cont amiodarone at 5mg/hr for 18 hrs
   -- q8 hour labs and coags per cooling protocol
   -- allow BP to autoregulate with MAPS 60-70
   -- trend CE
   -- TTE
   -- ECG
   -- CXR
   -- monitor on tele
   -- will consider cath emergently if signs of ischemia, but will hold
   off until patient stablizes.
   -- will need to contact PCP to obtain prior records, including cardiac
   history
   -- [**Hospital1 608**] has AED that shows VF arrest, will try to obtain
   .
   #. Respiratory Failure: Pt intubated in the field after being found
   unresponsive and in VF arrest. CXR showed diffuse pulm edema.  Pt
   ventilation improved with sedation and paralysis and have been able to
   wean O2/PEEP overnight. Pt diuresed overnight with 40mg IV lasix.
   -- Repeat CXR this AM
   -- cont sedation and paralysis
   -- goal PCO2 35-40 per arrest protocol
   -- ABG q6
   -- I/O goal: -1-1.5L, consider initiation of lasix gtt
   .
   # CORONARIES: Unclear cardiac history. CE initially negative, but
   slowly trending up with Trop 0.43, CK: 695 MB 112, MBI 16.1.  Unlikely
   acute thrombotic event and likely CE elevation in the setting of VF and
   shock.
   -- ASA 325mg and lipitor 80mg daily
   -- trend CE
   -- Will discuss with team regarding initiation of heparin gtt
   -- consider cath this admission, but will hold off until patient
   stablizes or shows signs of ACS
   .
   # PUMP: Pt with pulm edema and lower ext edema. No prior history of HF.
   -- monitor I/O, daily weights
   -- I/O goal 1-1.5L, consider lasix gtt
   -- TTE
   .
   # DM: Pt with elevated glucose in the setting of cooling. patient with
   history of DM on oral medications at home.  Initiated on insulin gtt
   overnight
   - cont insulin gtt and wean after cooling protocol
   - hold home regimen
   .
   # HTN: Pt with history of HTN. Will plan to let patient autoregulate BP
   with goal MAPS 60-70.
   -- hold BP meds for now
   .
   #. Thrombocytopenia: Plts 126 down from 238 on admission. Cooling can
   cause thrombocytopenia. Pre-test is intermediate for HIT.
   -- cont to trend platelets
   -- hold on heparin products for now
   -- send HIT antibodies
   -- will discuss with cardiac arrest team regarding expected
   thrombocytopenia.
   .
   FEN:  NPO
   .
   ACCESS: PIV, RIJ, a-line
   .
   PROPHYLAXIS:
   -DVT ppx with pneumoboots, hold on heparin products
   -Bowel regimen prn
   .
   CODE:  FULL
   .
   COMM: Wife: [**Name2 (NI) 12302**] [**0-0-**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-1-16**] 04:00 PM
   Arterial Line - [**2148-1-16**] 06:00 PM
   Multi Lumen - [**2148-1-16**] 07:41 PM
   Trauma line - [**2148-1-16**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-01-18 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2148-1-17**] 10:15 AM
 TRANSTHORACIC ECHO - At [**2148-1-17**] 11:00 AM
   - symmetric LVH, predominantly apical hypokinesis, LVEF 35-40
 TRAUMA LINE - STOP [**2148-1-17**] 04:45 PM
   I/O line in left knee- placed trauma OSH- to be [**Name6 (MD) 4338**] by MD
 EEG - At [**2148-1-17**] 07:00 PM
   [**1-17**]:
   - EP fellow ([**Doctor First Name **]) was concerned about prlonged QTc and bradycardia.
   Wanted us to d/c amio for now and will await further recs.
   - hypotensive, started on levofed
   - need to obtain baseline 12-lead from PCP [**Telephone/Fax (1) 12323**]
   - home meds: lipitor 10', metformin 1000'', flovent 2puffs '', prilosec
   40', zantac 150, xalatan eye drops left eye qhs, glyburide 6mg [**Hospital1 **],
   actos 45 daily.
   - per rads attg, initial CT abnml with possible early edema. Rpt study
   done showing no interval change.
   - per neuro, no epilitiform activity
   - Warmed to 37 overnight, diuresis initiated with lasix drip. Peep
   successfully weaned.
   - In evening, became interactive after discontinuation of paralytics;
   squeezing hands, moving toes, breathing, and blinking/nodding to
   commands. Sedation doubled to sedate pt as he was not ready for
   extubation given PEEP of 15 and anticipated cath tomorrow.
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   lip swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2148-1-17**] 08:00 PM
   Cefipime - [**2148-1-18**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2148-1-17**] 11:00 PM
   Furosemide (Lasix) - [**2148-1-18**] 03:10 AM
   Heparin Sodium - [**2148-1-18**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-18**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 88 (52 - 88) bpm
   BP: 102/48(64) {91/43(59) - 132/62(85)} mmHg
   RR: 20 (18 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 127.3 kg
   Height: 72 Inch
    CVP: 7 (7 - 19)mmHg
   Total In:
                                                                  2,301 mL
                                                                    399 mL
   PO:
   TF:
   IVF:
                                                                  2,211 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    250 mL
   Urine:
                                                                  1,285 mL
                                                                    250 mL
   NG:
                                                                    335 mL
   Stool:
   Drains:
   Balance:
                                                                    681 mL
                                                                    149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/31/147/22/-3
   Ve: 10.7 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   12.0 g/dL
   177 mg/dL
   1.2 mg/dL
   22 mEq/L
   5.3 mEq/L
   33 mg/dL
   104 mEq/L
   134 mEq/L
   35.7 %
   12.7 K/uL
        [image002.jpg]
                            [**2148-1-17**]  07:17 AM
                            [**2148-1-17**]  09:46 AM
                            [**2148-1-17**]  09:47 AM
                            [**2148-1-17**]  12:53 PM
                            [**2148-1-17**]  04:21 PM
                            [**2148-1-17**]  04:42 PM
                            [**2148-1-17**]  10:08 PM
                            [**2148-1-17**]  10:18 PM
                            [**2148-1-18**]  04:04 AM
                            [**2148-1-18**]  06:26 AM
   WBC
   15.7
   12.7
   Hct
   38.1
   35.7
   Plt
   126
   192
   164
   Cr
   0.9
   1.0
   1.0
   1.2
   TropT
   0.91
   1.12
   0.98
   TCO2
   23
   24
   24
   25
   25
   20
   Glucose
   373
   297
   47
   143
   177
   Other labs: PT / PTT / INR:13.5/37.3/1.2, CK / CKMB /
   Troponin-T:397/71/0.98, ALT / AST:25/34, Alk Phos / T Bili:87/0.6,
   Amylase / Lipase:/24, Differential-Neuts:83.8 %, Band:1.0 %, Lymph:10.3
   %, Mono:4.3 %, Eos:1.4 %, Lactic Acid:2.0 mmol/L, Albumin:3.7 g/dL,
   LDH:275 IU/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: echo: Mild symmetric left ventricular hypertrophy with normal
   cavity size and mild regional and global systolic dysfunction. Mild
   mitral regurgitation.
   rpt ct head: No change since [**2148-1-16**] with no hypodensity to suggest
   evolving infarction.
   Microbiology: ngtd
   Assessment and Plan
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
   67 yo M with DM, HTN presents following VF-arrest s/p shock x1 with
   conversion to sinus. S/p cooling protocol.
   # RHYTHM/ s/p ARREST: VF arrest, down time reportedly few minutes. He
   was shocked x1 with conversion to sinus tach.  S/p cooling protocol.
   Amiodarone d/c
ed yesterday per EP recs [**2-27**] QT prolongation.  He was
   re-warmed last night.  No clear h/o ischemia, heart failure, LVH,
   structural heart disease or prior arrhythmia that might have caused his
   VF arrest.  However, given extensive CAD risk factors, CAD may have
   been the trigger.
   -- degree of consciousness last night re-assuring in terms of
   neurologic recovery
   -- epilepsy service, SCD consult team, and EP continuing to follow
   -- cont sedation with fentanyl/ mid; off paralytics
   -- monitor on tele
   --cath as below, if no reversible ischemic causes, would pursue ICD
   .
   # CORONARIES/ NSTEMI: MB with peak at 156 (CK 736), not definitively
   outside of the range of what could be seen without CAD in setting of
   arrest/shocks. Echo suggestive of diffuse CAD vs LAD distribution;
   degree of cardiac enzymes not high enough to explain this degree of
   injury to LV
suggesting possible prior CHF. That said, ischemia most
   likely trigger for VFIB arrest given risk factors.
   -- continue heparin gtt, ASA, lipitor 80. Initiate plavix once ileus
   improved
   -- CE have peaked
   -- cath early nxt week s/p extubation & consent
   .
   #. Respiratory Failure: CXR appearance c/w diffuse inflammation
   (possible aspiration pneumonitis) vs pulmonary edema in setting of
   acutely depressed LVEF. Although likely too early for aspiration event
   in setting of arrest to cause PNA, began broad spectrum Abx
   (cefepime/vanco) on [**1-17**].  Diuresis failed to bolus yesterday. Drip
   lasix started after pt re-warmed with subsequent success in weaning of
   PEEP.  Given degree of interactiveness last night, suspect that pt will
   be quickly wean off vent in the pm s/p cath and further diuresis.
   -- serial CXR
   -- wean with transition to PSV
   -- goal PCO2 35-40 per arrest protocol; serial ABG
   -- I/O goal even until levophed weaned; pulm edema most likely
   cardiogenic although pneumonitis and asp PNA a concern
   -- sputum Cx
   .
   # PUMP: Pt with significant pulm edema; No prior known history of HF.
   Fairly non-focal distribution (apical predisposition) to hypokinesis
   with EF 35-40%. Suspect that this is acutely depressed (partially [**2-27**]
   stunning) in setting of arrest and potentially reversible.
   -- should initiate beta-blocker and ACE/[**Last Name (un) **] when pressor weaned
   -- current hypotension may be largely secondary to sedation vs
   cardiogenic source; distributive shock less likely.
   -- I/O goal 1-1.5L
   # DM: Resumed Insulin drip for tight control. After vent wean, could
   transition to SSI
   -- hold home regimen
   .
   # HTN: Pt with history of HTN. Currently on levophed since yesterday.
   MAP goal 60
   -- hold BP meds for now
   -- wean levophed
   .
   #. Thrombocytopenia: Plts 126 down from 238 on admission. Cooling can
   cause thrombocytopenia. Pre-test is intermediate for HIT. Improved.
   -- cont to trend platelets
    .
   FEN:  NPO
   .
   ACCESS: PIV, RIJ, a-line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin drip
   -Bowel regimen prn
   .
   CODE:  FULL, confirmed
   .
   COMM: Wife: [**Name2 (NI) 12302**] [**0-0-**]; family spends night in [**Hospital Ward Name **] 6 solarium
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: consider TF consult depending on how weaning goes today.
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2148-1-16**] 04:00 PM
   Arterial Line - [**2148-1-16**] 06:00 PM
   Multi Lumen - [**2148-1-16**] 07:41 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2148-01-19 06:43:00 Physician Resident Progress Note
Chief Complaint: VF/VT arrest.
   24 Hour Events:
 EKG - At [**2148-1-18**] 12:05 PM
   - able to wean vent settings, MS did not improve enough for extubation.
   - got 2 boluses and able to d/c levofed at 10pm.
   - Overnight MS improved, aggressively weaned vent & extubated at 5am.
   - hypertensive and mildly tachy on vent -> felt [**2-27**] agitation.  Got
   lopressor 5mg IV.
   - prior to extubation got 40 lasix IV.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   lip swelling;
   Last dose of Antibiotics:
   Cefipime - [**2148-1-18**] 02:30 PM
   Vancomycin - [**2148-1-18**] 07:52 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2148-1-18**] 09:46 AM
   Metoprolol - [**2148-1-19**] 02:30 AM
   Furosemide (Lasix) - [**2148-1-19**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-19**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 35.3
C (95.6
   HR: 80 (75 - 112) bpm
   BP: 152/69(95) {98/49(63) - 154/70(97)} mmHg
   RR: 24 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 127.3 kg
   Height: 72 Inch
    CVP: 279 (275 - 309)mmHg
   Total In:
                                                                  2,087 mL
                                                                    301 mL
   PO:
   TF:
   IVF:
                                                                  2,027 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                  1,360 mL
   Urine:
                                                                  1,450 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    637 mL
                                                                 -1,059 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 392 (392 - 423) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 70%
   RSBI: 51
   PIP: 6 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/45/147/26/2
   Ve: 11.4 L/min
   PaO2 / FiO2: 367
   Physical Examination
   GEN:
   CV:
   RRR:
   ABD:
   EXT:
   NEURO:
   Labs / Radiology
   111 K/uL
   11.0 g/dL
   105 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   29 mg/dL
   104 mEq/L
   136 mEq/L
   34.1 %
   8.1 K/uL
        [image002.jpg]
                            [**2148-1-17**]  10:08 PM
                            [**2148-1-17**]  10:18 PM
                            [**2148-1-18**]  04:04 AM
                            [**2148-1-18**]  06:26 AM
                            [**2148-1-18**]  09:34 AM
                            [**2148-1-18**]  11:21 AM
                            [**2148-1-19**]  02:36 AM
                            [**2148-1-19**]  04:15 AM
                            [**2148-1-19**]  04:42 AM
                            [**2148-1-19**]  05:32 AM
   WBC
   12.7
   8.1
   Hct
   35.7
   34.1
   Plt
   164
   111
   Cr
   1.0
   1.2
   0.9
   TropT
   1.12
   0.98
   TCO2
   25
   20
   25
   26
   26
   29
   28
   Glucose
   143
   177
   105
   Other labs: PT / PTT / INR:13.0/63.5/1.1, CK / CKMB /
   Troponin-T:397/71/0.98, ALT / AST:25/34, Alk Phos / T Bili:87/0.6,
   Amylase / Lipase:/24, Differential-Neuts:77.8 %, Band:1.0 %, Lymph:14.5
   %, Mono:6.6 %, Eos:0.8 %, Lactic Acid:2.0 mmol/L, Albumin:3.7 g/dL,
   LDH:275 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: [**2148-1-18**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2148-1-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2148-1-17**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2148-1-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
   67 yo M with DM, HTN presents following VF-arrest s/p shock x1 with
   conversion to sinus. S/p cooling protocol.
   # RHYTHM/ s/p ARREST: VF arrest, down time reportedly few minutes. He
   was shocked x1 with conversion to sinus tach.  S/p cooling protocol.
   Amiodarone d/c
ed yesterday per EP recs [**2-27**] QT prolongation.  He was
   re-warmed last night.  No clear h/o ischemia, heart failure, LVH,
   structural heart disease or prior arrhythmia that might have caused his
   VF arrest.  However, given extensive CAD risk factors, CAD may have
   been the trigger.
   -- degree of consciousness last night re-assuring in terms of
   neurologic recovery
   -- epilepsy service, SCD consult team, and EP continuing to follow
   -- cont sedation with fentanyl/ mid; off paralytics
   -- monitor on tele
   --cath as below, if no reversible ischemic causes, would pursue ICD
   .
   # CORONARIES/ NSTEMI: MB with peak at 156 (CK 736), not definitively
   outside of the range of what could be seen without CAD in setting of
   arrest/shocks. Echo suggestive of diffuse CAD vs LAD distribution;
   degree of cardiac enzymes not high enough to explain this degree of
   injury to LV
suggesting possible prior CHF. That said, ischemia most
   likely trigger for VFIB arrest given risk factors.
   -- continue heparin gtt, ASA, lipitor 80. Initiate plavix once ileus
   improved
   -- CE have peaked
   -- cath early nxt week s/p extubation & consent
   .
   #. Respiratory Failure: CXR appearance c/w diffuse inflammation
   (possible aspiration pneumonitis) vs pulmonary edema in setting of
   acutely depressed LVEF. Although likely too early for aspiration event
   in setting of arrest to cause PNA, began broad spectrum Abx
   (cefepime/vanco) on [**1-17**].  Diuresis failed to bolus yesterday. Drip
   lasix started after pt re-warmed with subsequent success in weaning of
   PEEP.  Given degree of interactiveness last night, suspect that pt will
   be quickly wean off vent in the pm s/p cath and further diuresis.
   -- serial CXR
   -- wean with transition to PSV
   -- goal PCO2 35-40 per arrest protocol; serial ABG
   -- I/O goal even until levophed weaned; pulm edema most likely
   cardiogenic although pneumonitis and asp PNA a concern
   -- sputum Cx
   .
   # PUMP: Pt with significant pulm edema; No prior known history of HF.
   Fairly non-focal distribution (apical predisposition) to hypokinesis
   with EF 35-40%. Suspect that this is acutely depressed (partially [**2-27**]
   stunning) in setting of arrest and potentially reversible.
   -- should initiate beta-blocker and ACE/[**Last Name (un) **] when pressor weaned
   -- current hypotension may be largely secondary to sedation vs
   cardiogenic source; distributive shock less likely.
   -- I/O goal 1-1.5L
   .
   # DM: Resumed Insulin drip for tight control. After vent wean, could
   transition to SSI
   -- hold home regimen
   .
   # HTN: Pt with history of HTN. Currently on levophed since yesterday.
   MAP goal 60
   -- hold BP meds for now
   -- wean levophed
   .
   #. Thrombocytopenia: Plts 126 down from 238 on admission. Cooling can
   cause thrombocytopenia. Pre-test is intermediate for HIT. Improved.
   -- cont to trend platelets
    .
   FEN:  NPO
   .
   ACCESS: PIV, RIJ, a-line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin drip
   -Bowel regimen prn
   CODE:  FULL, confirmed
   .
   COMM: Wife: [**Name2 (NI) 12302**] [**0-0-**]; family spends night in [**Hospital Ward Name **] 6 solarium
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2148-1-16**] 06:00 PM
   Multi Lumen - [**2148-1-16**] 07:41 PM
   20 Gauge - [**2148-1-18**] 08:26 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2148-01-20 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2148-1-19**] 01:54 PM
   - change vanco/cefepime to levo 750mg for planned 7 day for pna
   - started on metoprolol 25mg TID and lisinopril 5mg daily
   - d/c a-line
   - weaned O2 to 4L NC
   - patient mental status improving
   - episode of vomiting, improved with Zofran. ECG showed deeper TWI in
   v5, ? worsening ST changes v2-v3. Faxed and spoke with Fellow who
   didn't think it was significant.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   lip swelling;
   Last dose of Antibiotics:
   Cefipime - [**2148-1-18**] 02:30 PM
   Vancomycin - [**2148-1-19**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-20**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 77 (62 - 86) bpm
   BP: 106/57(70) {91/41(54) - 119/75(89)} mmHg
   RR: 27 (16 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 127.3 kg
   Height: 72 Inch
    CVP: 22 (15 - 22)mmHg
   Total In:
                                                                  2,022 mL
                                                                    412 mL
   PO:
                                                                  1,020 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    912 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,795 mL
                                                                    185 mL
   Urine:
                                                                  2,795 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -773 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.38/45/128/28/1
   Physical Examination
   GEN: NAD, AAOx3
   CV: RRR, s1 & s2 nl, no m/r/g appreciated
   RRR: rhonchorous bilat, no accessory muscle use.
   ABD: + BS soft, distended, non-tender
   EXT: wwp, trace edema bilat improved from yesterday.  2+ DP & PT
   NEURO: alert, conversant, oriented to person, following commands, moves
   all extremities.
   Labs / Radiology
   113 K/uL
   10.9 g/dL
   167 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.9 mEq/L
   38 mg/dL
   101 mEq/L
   137 mEq/L
   33.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2148-1-18**]  06:26 AM
                            [**2148-1-18**]  09:34 AM
                            [**2148-1-18**]  11:21 AM
                            [**2148-1-19**]  02:36 AM
                            [**2148-1-19**]  04:15 AM
                            [**2148-1-19**]  04:42 AM
                            [**2148-1-19**]  05:32 AM
                            [**2148-1-19**]  11:40 AM
                            [**2148-1-19**]  01:21 PM
                            [**2148-1-20**]  03:26 AM
   WBC
   8.1
   8.6
   Hct
   34.1
   33.4
   Plt
   111
   113
   Cr
   0.9
   0.7
   1.4
   TropT
   0.88
   TCO2
   20
   25
   26
   26
   29
   28
   28
   Glucose
   105
   167
   Other labs: PT / PTT / INR:13.2/44.0/1.1, CK / CKMB /
   Troponin-T:253/7/0.88, ALT / AST:25/34, Alk Phos / T Bili:87/0.6,
   Amylase / Lipase:/24, Differential-Neuts:83.0 %, Band:1.0 %, Lymph:10.1
   %, Mono:6.3 %, Eos:0.4 %, Lactic Acid:2.0 mmol/L, Albumin:3.7 g/dL,
   LDH:275 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CARDIAC ARREST
   67 yo M with DM, HTN presents following VF-arrest s/p shock x1 with
   conversion to sinus. S/p cooling protocol.
   # RHYTHM/ s/p ARREST: VF arrest, down time reportedly few minutes. He
   was shocked x1 with conversion to sinus tach.  S/p cooling protocol.
   Amiodarone d/c
ed per EP recs [**2-27**] QT prolongation.  No clear h/o
   ischemia, heart failure, LVH, structural heart disease or prior
   arrhythmia that might have caused his VF arrest.  However, given
   extensive CAD risk factors, CAD may have been the trigger. neurologic
   status continues to improve
   - appreciate EP recs
   -- cont metoprolol 25mg PO BID
   -- monitor on tele
   -- cath as below, if no reversible ischemic causes, would pursue ICD
   .
   #. ARF: Pt with Cr of 1.4 this AM. This was following IV lasix and poor
   po intake.   Pt also started on ACEi.  Possible pre-renal vs b/l
   stenosis.
   - will keep even for now and encourge po intake
   - urine lytes
   - d/c lisinopril
   - trend creatinine
   - renally dose meds and avoid nephrotoxins
   - consider renal u/s with dopllers if worsens
   .
   # CORONARIES/ NSTEMI: MB with peak at 156 (CK 736), not definitively
   outside of the range of what could be seen without CAD in setting of
   arrest/shocks. Echo suggestive of diffuse CAD vs LAD distribution;
   degree of cardiac enzymes not high enough to explain this degree of
   injury to LV suggesting possible prior CHF. That said, ischemia most
   likely trigger for VFIB arrest given risk factors.  This am complains
   of CP.  EKG unchanged.  Possibly MSK secondary to CPR
   -- continue heparin gtt until cath, ASA, lipitor 80, plavix 75
   -- CE have peaked
   -- cath early next week
   .
   #. Hypoxia: Respiratory status improving.  Most likely secondary to
   pulmonary edema.  s/p extubation today.  Feel less likely to be related
   to aspiration PNA or other infectious etiology, but pt continues to
   have thick sputum.  Very unlikely to be [**2-27**] resistant organism.
   -- levofloxacin to complete a 8 day course.  (day 1=[**1-17**])
   -- fup sputum Cx
   .
   # PUMP: Pt with significant pulm edema; No prior known history of HF.
   Fairly non-focal distribution (apical predisposition) to hypokinesis
   with EF 35-40%. Suspect that this is acutely depressed (partially [**2-27**]
   stunning) in setting of arrest and potentially reversible.
   -- metoprolol 25mg [**Hospital1 7**]
   -- I/O goal even for now
   .
   # DM: d/c insulin gtt yesterday.  Started lantus at 20U yesterday and
   sliding scale.
   -- monitor FS, diabetic diet.
   .
   # HTN: Hypotension resolved with IVF bolus x2 yesterday.  Pt off
   pressors  Pt with history of HTN.
   -- restart metoprolol as above.
   .
   #. Thrombocytopenia: Plts 113 down from 238 on admission. Cooling can
   cause thrombocytopenia. Pre-test is intermediate for HIT.
   -- cont to trend platelets
    .
   FEN:  swallow appears intact per nurse.  Advance diet to cardiac
   heart/healthy & DM.
   .
   ACCESS: PIV, RIJ
   .
   PROPHYLAXIS:
   -DVT ppx with heparin drip
   -Bowel regimen prn
   CODE:  FULL, confirmed
   .
   COMM: Wife: [**Name2 (NI) 12302**] [**0-0-**]; family spends night in [**Hospital Ward Name **] 6 solarium
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2148-1-16**] 07:41 PM
   20 Gauge - [**2148-1-18**] 08:26 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2148-01-21 08:18:00 Physician Resident Progress Note
Chief Complaint: s/p v-fib arrest
   24 Hour Events:
   - Cr rose to 1.4 from 0.7 and then continued to 1.7 overnight with
   decrease in UOP transiently. Per renal, urine fairly unremarkable.
   - Delerious last night with partial response to haldol 1mg po x1.
   - Lasix not given b/c pressures 90s/50s
   S: Patient reports mild SSCP with cough.  Reports breath feels slightly
   better with less mucus production.  No f/chills.  no abdominal pain. +
   constipation
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   lip swelling;
   Last dose of Antibiotics:
   Cefipime - [**2148-1-18**] 02:30 PM
   Vancomycin - [**2148-1-19**] 08:00 AM
   Levofloxacin - [**2148-1-20**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: as above
   Flowsheet Data as of  [**2148-1-21**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 81 (69 - 82) bpm
   BP: 101/51(63) {95/38(53) - 130/80(88)} mmHg
   RR: 25 (20 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 127.3 kg
   Height: 72 Inch
    CVP: 14 (11 - 14)mmHg
   Total In:
                                                                  2,225 mL
                                                                    325 mL
   PO:
                                                                  1,320 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    905 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                    583 mL
                                                                    235 mL
   Urine:
                                                                    583 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,642 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GEN: NAD, AAOx3
   CV: RRR, s1 & s2 nl, no m/r/g
   RRR: rhonchorous bilat, no accessory muscle use.
   ABD: + BS soft, distended, non-tender
   EXT: wwp, no edema 2+ DP & PT
   NEURO: alert, conversant, following commands, moves all extremities.
   Labs / Radiology
   112 K/uL
   10.0 g/dL
   179 mg/dL
   1.7 mg/dL
   27 mEq/L
   4.7 mEq/L
   57 mg/dL
   101 mEq/L
   136 mEq/L
   30.5 %
   7.9 K/uL
        [image002.jpg]
                            [**2148-1-18**]  11:21 AM
                            [**2148-1-19**]  02:36 AM
                            [**2148-1-19**]  04:15 AM
                            [**2148-1-19**]  04:42 AM
                            [**2148-1-19**]  05:32 AM
                            [**2148-1-19**]  11:40 AM
                            [**2148-1-19**]  01:21 PM
                            [**2148-1-20**]  03:26 AM
                            [**2148-1-20**]  04:30 PM
                            [**2148-1-21**]  03:16 AM
   WBC
   8.1
   8.6
   7.9
   Hct
   34.1
   33.4
   30.5
   Plt
   111
   113
   112
   Cr
   0.9
   0.7
   1.4
   1.7
   1.7
   TropT
   0.88
   TCO2
   26
   26
   29
   28
   28
   Glucose
   105
   167
   179
   Other labs: PT / PTT / INR:13.6/56.9/1.2, CK / CKMB /
   Troponin-T:253/7/0.88, ALT / AST:25/34, Alk Phos / T Bili:87/0.6,
   Amylase / Lipase:/24, Differential-Neuts:83.0 %, Band:1.0 %, Lymph:10.1
   %, Mono:6.3 %, Eos:0.4 %, Lactic Acid:2.0 mmol/L, Albumin:3.7 g/dL,
   LDH:275 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:4.7 mg/dL
   Microbiology:   GRAM STAIN (Final [**2148-1-18**]):
         <10 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
   BLOOD CX - [**1-17**] pending
   URINE CX- [**1-20**] pending
   Assessment and Plan
   67 yo M with DM, HTN presents following VF-arrest s/p shock x1 with
   conversion to sinus. S/p cooling protocol.
   .
   # RHYTHM/ s/p ARREST: VF arrest, down time reportedly few minutes. He
   was shocked x1 with conversion to sinus tach.  S/p cooling protocol.
   Amiodarone d/c
ed per EP recs [**2-27**] QT prolongation.  No clear h/o
   ischemia, heart failure, LVH, structural heart disease or prior
   arrhythmia that might have caused his VF arrest.  However, given
   extensive CAD risk factors, CAD may have been the trigger. neurologic
   status continues to improve
   - appreciate EP recs
   -- cont metoprolol 25mg PO BID
   -- monitor on tele
   -- cath as below, if no reversible ischemic causes, would pursue ICD
   .
   #. ARF: Pt with Cr of 1.7 this AM.  Most likely secondary to
   overdiuresis and the addition of ACE.  Possible pre-renal vs b/l
   stenosis.
   - repeat U/A
   - will keep even for now and encourge po intake
   - renal consult appreciated.
   - urine lytes
   - trend creatinine
   - renally dose meds and avoid nephrotoxins
   - consider renal u/s with dopllers if worsens
   .
   # CORONARIES/ NSTEMI: MB with peak at 156 (CK 736), not definitively
   outside of the range of what could be seen without CAD in setting of
   arrest/shocks. Echo suggestive of diffuse CAD vs LAD distribution;
   degree of cardiac enzymes not high enough to explain this degree of
   injury to LV suggesting possible prior CHF. That said, ischemia most
   likely trigger for VFIB arrest given risk factors.  This am complains
   of CP.  EKG unchanged.  Possibly MSK secondary to CPR
   -- continue heparin gtt until cath, ASA, lipitor 80, plavix 75
   -- CE have peaked
   -- cath early next week
   .
   #. Hypoxia: Respiratory status improving.  Most likely secondary to
   pulmonary edema.  s/p extubation today.  Feel less likely to be related
   to aspiration PNA or other infectious etiology, but pt continues to
   have thick sputum.  Very unlikely to be [**2-27**] resistant organism.
   -- levofloxacin to complete a 8 day course.  (day 1=[**1-17**])
   -- fup sputum Cx
   .
   # PUMP: Pt with significant pulm edema; No prior known history of HF.
   Fairly non-focal distribution (apical predisposition) to hypokinesis
   with EF 35-40%. Suspect that this is acutely depressed (partially [**2-27**]
   stunning) in setting of arrest and potentially reversible.
   -- metoprolol 25mg [**Hospital1 7**]
   -- I/O goal even for now
   .
   # DM: d/c insulin gtt yesterday.  Started lantus at 20U yesterday and
   sliding scale.
   -- monitor FS, diabetic diet.
   .
   # HTN: SBP ranges from
   -- restart metoprolol as above.
   .
   #. Thrombocytopenia: Plts 113 down from 238 on admission. Cooling can
   cause thrombocytopenia. Pre-test is intermediate for HIT.
   -- cont to trend platelets
    .
   FEN:  Advance diet to cardiac heart/healthy & DM.
   ACCESS: PIV, RIJ
   PROPHYLAXIS:
   -DVT ppx with heparin drip
   -Bowel regimen prn
   CODE:  FULL, confirmed
   COMM: Wife: [**Name2 (NI) 12302**] [**0-0-**]; family spends night in [**Hospital Ward Name **] 6
   solarium
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-1-16**] 07:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-01-22 07:03:00 Physician Resident Progress Note
Chief Complaint: VF/VT arrest
   24 Hour Events:
   - Sputum cx w/ Coag postive staph - pan sensitive. got one dose of
   vanco this am.  Sensitivities show MSSA so levofloxacin switched to
   ceftriaxone
   - Renal - [**Last Name (un) **], most likely [**2-27**] ACE, lasix and low normal BP. hold
   meds.  I/O goal even.  keep MAP>65
   - Na low at 125 from 137 on PM labs. Repeat Na 134
   S:  C/o continued productive cough, mildly improved. Suctioning sputum
   with yankauer. Denies chest pain, dyspnea, abdominal pain.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   lip swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2148-1-21**] 08:46 AM
   Levofloxacin - [**2148-1-21**] 08:47 AM
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2148-1-21**] 08:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-22**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 72 (66 - 81) bpm
   BP: 114/45(61) {82/41(53) - 133/65(113)} mmHg
   RR: 21 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 127.3 kg
   Height: 72 Inch
    CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  2,057 mL
                                                                    225 mL
   PO:
                                                                  1,440 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    617 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    500 mL
   Urine:
                                                                  1,700 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    357 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   HEENT: PERRLA. EOMI. No appreciable left JVD. Right IJ with dried blood
   surrounding.
   CV: RRR, normal S1/S2. No murmurs/rubs/gallops
   LUNG: Bilateral basilar rhonchi. No wheeze or crackles. Good
   inspiratory effort. Unable to complete five word sentences [**2-27**] dyspnea
   & cough
   ABDOMEN: Protruberant. Soft. + Bowel sounds x4. No rebound tenderness
   or guarding.
   Extremities: Trace bilateral lower extremity edema. Left UE mildly
   edematous.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Ecchymosis over left forearm
   Neurologic: Awake, alert, oriented. Speech fluent, thought process
   clear. Moving extremities freely. Sensation grossly intact.
   Labs / Radiology
   112 K/uL
   10.4 g/dL
   111 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.5 mEq/L
   51 mg/dL
   99 mEq/L
   135 mEq/L
   30.4 %
   7.1 K/uL
        [image002.jpg]
                            [**2148-1-19**]  04:15 AM
                            [**2148-1-19**]  04:42 AM
                            [**2148-1-19**]  05:32 AM
                            [**2148-1-19**]  11:40 AM
                            [**2148-1-19**]  01:21 PM
                            [**2148-1-20**]  03:26 AM
                            [**2148-1-20**]  04:30 PM
                            [**2148-1-21**]  03:16 AM
                            [**2148-1-21**]  02:56 PM
                            [**2148-1-22**]  05:04 AM
   WBC
   8.1
   8.6
   7.9
   7.1
   Hct
   34.1
   33.4
   30.5
   30.4
   Plt
   111
   113
   112
   112
   Cr
   0.9
   0.7
   1.4
   1.7
   1.7
   1.6
   1.4
   TropT
   0.88
   TCO2
   29
   28
   28
   Glucose
   105
   167
   179
   153
   111
   Other labs: PT / PTT / INR:13.6/56.9/1.2, CK / CKMB /
   Troponin-T:253/7/0.88, ALT / AST:25/34, Alk Phos / T Bili:87/0.6,
   Amylase / Lipase:/24, Differential-Neuts:83.0 %, Band:1.0 %, Lymph:10.1
   %, Mono:6.3 %, Eos:0.4 %, Lactic Acid:2.0 mmol/L, Albumin:3.7 g/dL,
   LDH:275 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:3.9 mg/dL
   Microbiology: Sputum with MSSA
   Blood & urine - ngtd
   Assessment and Plan
   67 yo M with DM, HTN presents following VF-arrest s/p shock x1 with
   conversion to sinus. S/p cooling protocol.
   .
   # RHYTHM/ s/p ARREST: VF arrest, He was shocked x1 with conversion to
   sinus tach.  S/p cooling protocol. Amiodarone d/c
ed per EP recs [**2-27**] QT
   prolongation.  No clear h/o ischemia, heart failure, LVH, structural
   heart disease or prior arrhythmia that might have caused his VF
   arrest.  However, given extensive CAD risk factors, CAD may have been
   the trigger. neurologic status wnl.
   -- appreciate EP recs
   -- c/w metoprolol tartrate 25mg PO BID
   -- monitor on tele
   -- awaiting further improvement in renal function for cath; creatinine
   was 0.7 on [**1-19**]; trending down to 1.4 today
   .
   #. [**Last Name (un) **]: Creatinine improved to 1.4. [**Last Name (un) **] Most likely secondary to
   furosemide & ACE (both now discontinued). Sediment not suggestive of
   ATN per renal. Produced 1.7 liters of urine yesterday, so no suspicion
   for obstruction. Will defer U/S for now.
   - will keep even for now
   - monitor BUN/creatinine, urine output
   - renal consult appreciated.
   - renally dose meds and avoid nephrotoxins
   - will d/c foley today
   .
   # CORONARIES/ NSTEMI: MB with peak at 156 (CK 736), not definitively
   outside of the range of what could be seen without CAD in setting of
   arrest/shocks. Echo suggestive of diffuse CAD vs LAD distribution;
   degree of cardiac enzymes not high enough to explain this degree of
   injury to LV suggesting possible prior CHF. That said, ischemia most
   likely trigger for VFIB arrest given risk factors.  CP most likely
   musculoskeletal and continues to improve.
   -- can d/c heparin gtt today, given duration of treatment.
   -- c/w ASA, lipitor 80, plavix 75
   -- cath when renal function improved
   .
   #. Hypoxia: Respiratory status stable; excellent O2 sats on [**2-28**] liters
   nasal cannula.  Prior CXRs showing atelectasis and pulmonary edema.
   Coughing with sputum positive for MSSA. Started ABx on [**1-17**],
   transitioned to ceftriaxone today.
   -- c/w ceftriaxone for CAP, known to be MSSA
   .
   # PUMP: Pt with significant pulm edema on imaging. TTE revealing
   non-focal distribution (apical predisposition) to hypokinesis with EF
   35-40%. Suspect that this is acutely depressed (partially [**2-27**] stunning)
   in setting of arrest and potentially reversible.
   -- c/w metoprolol 25mg [**Hospital1 7**]
   -- repeat TTE today for pre-catheterization assessment
   -- avoiding diuresis if possible, given [**Last Name (un) **]
   -- I/O goal even for now
   .
   # DM: cont lantus at 20U yesterday and sliding scale.
   -- monitor FS, diabetic diet.
   .
   # HTN: Systolic [**Location (un) **] of 82 yesterday, but generally normotensive.
   -- metoprolol as above.  Holding ACE/furosemide
   .
   #. Thrombocytopenia: Plts stable, but down from 238 on admission.
   Cooling can cause thrombocytopenia. Pre-test is intermediate for HIT.
   -- cont to trend platelets
    .
   FEN:  cardiac heart/healthy & DM.
   ACCESS: RIJ. Lost PIV this morning; will need to replace
   PROPHYLAXIS:
   -DVT ppx with subcutaneous heparin, ranitidine
   -Bowel regimen prn
   CODE:  FULL, confirmed
   COMM: Wife: [**Name2 (NI) 12302**] [**0-0-**]; family spends night in [**Hospital Ward Name **] 6
   solarium
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-1-16**] 07:41 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: